US04433152
A mixture of 9.2 g of bis-(p-cyclohexylphenyl)sulfite, 4 g of 1-amidino-4-piperidinecarboxylic acid hydrochloride, 20 ml of dry dimethylformamide and 8 ml of dry pyridine was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure, and the residue was treated with ethyl acetate to give crystals. The crystals were recrystallized from isopropanol-ether to obtain 2.9 g (yield: 40.8%) of p-cyclohexylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride as colorless crystals having a melting point of 226° to 230° C.

reactant | bis-(p-cyclohexylphenyl)sulfite | 9.2 g | C1(CCCCC1)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C1CCCCC1 | C24H30O3S
reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | p-cyclohexylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 2.9 g, yield: 40.8% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=CC=C(C=C1)C1CCCCC1 | InChI=1S/C19H27N3O2.ClH/c20-19(21)22-12-10-16(11-13-22)18(23)24-17-8-6-15(7-9-17)14-4-2-1-3-5-14;/h6-9,14,16H,1-5,10-13H2,(H3,20,21);1H
